US20010027196A1
2-Amino-4-furan-2-yl-6-isopropyl-pyrimidine-5-carbonitrile
From 2-amino-4-furan-2-yl-6-isopropenyl-pyrimidine-5-carbonitrile, hydrogen and palladium on charcoal in THF. ES-MS m/e (%): 229 (M+H+, 100).

reactant | 2-amino-4-furan-2-yl-6-isopropenyl-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)C=1OC=CC1)C#N)C(=C)C | C12H10N4O
reactant | hydrogen | [H][H] | H2
catalyst | palladium on charcoal | [Pd] | Pd
solvent | THF | C1CCOC1 | C4H8O
product | 2-Amino-4-furan-2-yl-6-isopropyl-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)C=1OC=CC1)C#N)C(C)C | C12H12N4O
